US08357694B2
N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-6-phenyl-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using 4-(6-phenyl-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine and triethylamine as described in general procedure 2 to afford the desired product. Yellow solid (34%). M.p.=52-54° C. 1H NMR 400 MHz (CDCl3) δ 8.40 (d, J=7.6 Hz, 1H), 8.17 (s, 1H), 7.63 (d, J=8.4 Hz, 2H), 7.43 (t, J=6.4 Hz, 1H), 7.38 (t, J=6.4 Hz, 1H), 7.29-7.21 (m, 6H), 7.14 (d, J=2.0 Hz, 2H), 7.01 (d, J=7.6 Hz, 1H), 4.30 (t, J=7.2 Hz, 1H), 3.52 (t, J=6.0 Hz, 2H), 3.36 (s, 3H), 3.22-3.06 (m, 2H), 2.81 (t, J=8.0 Hz, 2H), 2.64-2.50 (m, 12H). LCMS m/e 520 (M+H).

reactant | 4-(6-phenyl-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC=CC=C1)C=CC=C3 | C27H25N3O3S
reactant | 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine | COCCN1CCN(CC1)CCN | C9H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-6-phenyl-5,6-dihydrobenzo[h]quinazolin-2-amine | COCCN1CCN(CC1)CCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC=CC=C1)C=CC=C3 | C33H37N5O
